US07951810B2
Step b: N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-(hydroxymethyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide
To a solution of N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide (1.06 g, 1.82 mmol) in 18 mL THF/pyridine (1:1) was added approximately 20 drops of hydrofluoridic acid in pyridine. The mixture was stirred at r.t. for 30 h. The reaction was quenched by slowly adding to saturated aq NaHCO3 (100 mL) and the solution was extracted with EtOAc (3×50 mL). The combined organics were washed with saturated aq Cu(SO4)2 (50 mL) and saturated aq EDTA.Na2. The combined organics were dried (Na2SO4), filtered, and concentrated. The residue was purified by flash chromatography (15 to 50% EtOAc/hexanes) to isolate the title compound as a white foam (0.264 g, 31%).

reactant | N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide | 1.82 mmol, 1.06 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O | C30H46N4O4Si2
solvent | THF pyridine | 18 mL | C1CCOC1.N1=CC=CC=C1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{7-[(2R,4S,5R)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-(hydroxymethyl)tetrahydrofuran-2-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}benzamide | 0.264 g, 31% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O | C24H32N4O4Si
